US08871760B2
1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole (867 mg) was dissolved in ethanol and Palladium (10%) on activated carbon was added. The mixture was subject to barometric hydrogenation under balloon pressure for five hours at room temperature. The mixture was filtered and the filtrate was concentrated under reduced pressure to give crude 5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-1H-pyrazol-3-yl}-2-methyl-phenylamine as a white solid, which was used directly without further purification.

reactant | 1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole | 867 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1C)C1=CC(=C(C=C1)C)[N+](=O)[O-])(C)C | C19H29N3O3Si
solvent | ethanol | C(C)O | C2H6O
catalyst | Palladium | [Pd] | Pd
product | 5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-1H-pyrazol-3-yl}-2-methyl-phenylamine | C(C)(C)(C)[Si](OCCN1N=C(C=C1C)C=1C=CC(=C(C1)N)C)(C)C | C19H31N3OSi
